US04837241
a: 1-Methyl-4-carbamoyl-1,2,5,6-tetrahydropyridinium chloride
To a solution of ammonia in water (25%) (50 ml) was added 1-methyl-4-ethoxycarbonyl-1,2,5,6-tetrahydropyridinium chloride (Lambrecht & Mutschler, Arzneimittel Forsch. (Drug Res.) 23, 1427 (1973)) (4.5 g; 21,9 mmol) and the mixture was stirred at room temperature for 20 hours. After evaporation in vacuo, the residue was recrystallized from methanol and ether. M.P. 191°-192° C.

reactant | ammonia | N | H3N
reactant | 1-methyl-4-ethoxycarbonyl-1,2,5,6-tetrahydropyridinium chloride | 21,9 mmol, 4.5 g | [Cl-].C[NH+]1CC=C(CC1)C(=O)OCC
solvent | water | 50 ml | O | H2O
product | 1-Methyl-4-carbamoyl-1,2,5,6-tetrahydropyridinium chloride | [Cl-].C[NH+]1CC=C(CC1)C(N)=O | InChI=1S/C7H12N2O.ClH/c1-9-4-2-6(3-5-9)7(8)10;/h2H,3-5H2,1H3,(H2,8,10);1H
